US09255110B2
A suspension of 5-amino-1H-pyrazole-4-carboxylic acid (271 mg, 2.1 mmol) and 1,1,3,3-tetraethoxy-2-methyl-propane (prepared accordingly to the procedure described in JACS126(7), 2004, 2194) (0.5 g, 2.1 mmol) in an aqueous solution of hydrochloric acid (6 M, 1.3 mL) was heated at 95° C. in a sealed tube. The solid material completely dissolved when the temperature reached 82° C. and then a solid precipitate crushed out of solution, stirring was continued for 5 minutes. The resulting mixture was cooled to room temperature and the solid was collected by filtration, rinsed with water and dried in vacuum oven to afford 305.1 mg (81% yield) of 6-methyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid.

reactant | 5-amino-1H-pyrazole-4-carboxylic acid | 2.1 mmol, 271 mg | NC1=C(C=NN1)C(=O)O | C4H5N3O2
reactant | 1,1,3,3-tetraethoxy-2-methyl-propane | C(C)OC(C(C(OCC)OCC)C)OCC | C12H26O4
reactant | hydrochloric acid | 6 M, 1.3 mL | Cl | ClH
product | 6-methyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 305.1 mg, 81% yield | CC=1C=NC=2N(C1)N=CC2C(=O)O | C8H7N3O2
